* Z:\mnt\design.r\spice\examples\1143L-ADJ.asc
C1 N013 0 300p
R1 N010 N009 1K
C2 N009 0 3300p
M§Q1 N003 N006 IN IN FDC638P
L1 N003 N004 27µ
R2 N004 +2.5 50m
R3 N011 N012 1K
C3 N012 0 3300p
C4 N014 0 300p
D1 0 N003 1N5818
Rload2 +2.5 0 2
M§Q2 N002 N005 IN IN FDC638P
L2 N002 N001 27µ
R5 N001 +3.3 50m
Rload1 +3.3 0 5
V1 IN 0 5.75
C5 +2.5 0 220µ Rser=.1 x2
D2 0 N002 1N5818
C6 N004 +2.5 1000p
C7 N001 +3.3 1000p
XU1 N001 N007 0 N005 IN N014 N011 +2.5 N004 N008 0 N006 IN N013 N010 +3.3 LTC1143L-ADJ
R7 +2.5 N008 49.9K
R8 N008 0 49.9K
R9 +3.3 N007 82.5K
R10 N007 0 49.9K
C8 +3.3 0 220µ Rser=.1 x2
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
.lib LTC1143L-ADJ.sub
.backanno
.end
